US03931217
Preparation of 2-benzoylbenzaldehyde
A mixture of 1 g. of selenium dioxide and 1 g. of 2-hydroxymethylbenzhydrol in 5 ml. of acetic acid was refluxed for 41/2 hours. The solution was cooled, filtered from selenium and the filtrate was poured into ice water and made alkaline with sodium hydroxide. Extraction with ether gave a yellow oil to which petroleum ether was added. White prisms were obtained which melted at 64°-67°. Ultraviolet maximum (2-propanol) at 226/7 mμ (ε = 15,750) and 251/2 mμ (ε = 18,500), inflexion at 294 mμ (ε = 2600); infrared absorption (CHCl3) at 1665 cm-1 and 1705 cm-1

reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | 2-hydroxymethylbenzhydrol | OCC1=C(C(C2=CC=CC=C2)O)C=CC=C1 | C14H14O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-benzoylbenzaldehyde | C(C1=CC=CC=C1)(=O)C1=C(C=O)C=CC=C1 | C14H10O2
